Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / simvastatin
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of HLD,
recent CMV hepatitis (___), and breast cancer s/p partial
mastectomy ___ (mucinous adenocarcinoma) who presents for cough
and fevers. 

Patient states she first developed severe pharyngitis in late
___ followed by several days of cough and fever. She was
diagnosed with a lower left lobe community acquired pneumonia on
___ and completed a 5 day course of abx (levofloxacin). She
experienced mild improvement in symptoms however cough never
fully resolved. Over past 2 days, patient noticed worsening of
cough with onset of fever yesterday evening of 100.5 and repeat
temperature on AM of presentation of 101. Associated with 
diffuse
muscle aches and decreased appetite, otherwise denies syncope,
chills, vomiting, diarrhea, chest pain. Patient states husband
has been feeling ill as well, denies recent travel.

Patient re-presented to urgent care at ___ today and was flu
swabbed (negative) and had a repeat CXR which showed worsened
consolidation and was sent to the ED for consideration of IV 
abx.

In the ED:

Initial vital signs were notable for:
HR: 99; T: 100.7; BP: 135/83; RR: 16; PO2: 97

Exam notable for:
Decreased breath sounds at left lower base 

Labs were notable for:
CBC: WNL
ALT: 43
BMP: WNL
Flu: Negative
Lactate: 0.8 

Studies performed include:
CXR:  Worsening left lower lobe pneumonia as compared to prior
study (completed at ___)

Patient was given: Ceftaz/doxycycline 

Upon arrival to the floor, patient endorses mild nausea but
otherwise feels well. 

 
Past Medical History:
-HLD
-Celiac sprue
-Hyperparathyrodiism
-Breast cancer: Diagnosed intramammary LN in right UOQ in ___
found to be invasive mucinous carcinoma. Excision in ___, ith
re-exisicion ___ to not clean superior margin), reeiciion in
___. Subsequently treated with letrozole. Last seen by ___ in
___ with no evidence of local or systemic recurrence of
breast cancer with next mammogram planned for ___ next year 
Hepatitis: CMV hepatitis diagnosed in ___ of this year. 
Monoclonal gammopathy of undetermined significance 
 
Social History:
___
Family History:
This is notable for her PGF with stomach cancer and her PGM
with cancer (she does not know the primary). Her daughter has MS
and her mother had ___

 
Physical Exam:
ADMISSION EXAM
==============
VITALS: T: 99; BP: 144/82; HR: 86; RR: 18; O2: 95
GENERAL: Comfortably resting in bed
HEENT: NCAT. EOMI
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate.  No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. Faint crackles and
reduced breath sounds at left lung base. No increased work of
breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No  edema. Petechial rash on lower extremities
NEUROLOGIC: AOx3.

DISCHARGE EXAM
===============
VITALS: Reviewed in OMR
GENERAL: Alert and oriented, no acute distress
ENT: NT/AC, MMM, EOMI
CV: RRR, no murmurs, rubs, or gallops
RESP: Coarse crackles in the LLL, mild diffuse ronchi on the
right. Normal work of breathing, although coughing consistently
on lung exam.
GI: NT/ND, BS+
EXT: Warm and well perfused, non-edematous
NEURO: CNII-XII grossly intact, no focal neurologic deficits

 
Pertinent Results:
ADMISSON LABS
==============
___ 03:15PM BLOOD WBC-5.5 RBC-4.20 Hgb-12.7 Hct-39.1 MCV-93 
MCH-30.2 MCHC-32.5 RDW-12.7 RDWSD-43.2 Plt ___
___ 03:15PM BLOOD Neuts-56.9 ___ Monos-9.1 Eos-2.5 
Baso-0.7 Im ___ AbsNeut-3.14 AbsLymp-1.69 AbsMono-0.50 
AbsEos-0.14 AbsBaso-0.04
___ 03:15PM BLOOD Glucose-116* UreaN-24* Creat-1.0 Na-139 
K-4.1 Cl-106 HCO3-22 AnGap-11
___ 03:15PM BLOOD ALT-43* AST-34 AlkPhos-115* TotBili-0.5
___ 03:15PM BLOOD Albumin-4.0
___ 03:27PM BLOOD Lactate-0.8

MICRO/OTHER PERTINENT LABS
===========================
___ 07:20AM BLOOD ___ 3:14 pm URINE      Source: ___. 

   Legionella Urinary Antigen  (Pending): 

 
___ 10:28 pm SPUTUM      Source: Induced. 

   GRAM STAIN (Pending): 

   RESPIRATORY CULTURE (Pending): 

___ 10:20 pm MRSA SCREEN      Source: Nasal swab. 

   MRSA SCREEN (Pending): 

DISCHARGE LABS
===============
___ 07:20AM BLOOD WBC-4.5 RBC-4.00 Hgb-12.2 Hct-37.2 MCV-93 
MCH-30.5 MCHC-32.8 RDW-12.8 RDWSD-43.8 Plt ___
___ 07:20AM BLOOD Glucose-96 UreaN-21* Creat-0.9 Na-141 
K-4.4 Cl-108 HCO3-24 AnGap-9*
___ 07:20AM BLOOD ALT-45* AST-39 AlkPhos-107* TotBili-0.4
___ 07:20AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.0
 
Brief Hospital Course:
SUMMARY
=======
Ms. ___ is a ___ year old female with a history of HLD, 
recent CMV hepatitis (___), and breast cancer s/p partial 
mastectomy ___ (mucinous adenocarcinoma) presenting with 
recurrence of CAP vs superimposed viral infection. 

ACUTE ISSUES
============
# Pneumonia:
Patient clinical presentation of fevers, cough, sputum 
production I/s/o recently diagnosed PNA and CXR with left lower 
lobe opacity concerning for recurrence of PNA. However imaging 
findings could have been a lag and her symptoms could have 
represented a superimposed viral infection. Patient has no 
hospital or healthcare facility exposure in past month, however, 
has risk factor for resistant organism I/s/o previously 
completed levofloxacin course. Will change to 
cefpodoxime/azithro for a 5 day course with good atypical 
coverage. MRSA swab and legionella pending on discharge, due to 
clinical stability, no need for MRSA or MDR pseudomonas 
coverage.

# ALT elevation
Patient ALT mildly elevated this admission. Unlikely recurrence 
of CMV hepatitis, most likely ___ to infection.

CHRONIC ISSUES
==============
# HLD
Continued Lipitor 20 mg daily

# Breast CA:
Continued Letrozole 2.5 mg daily

# Rash
Patient has had rash on lower extremities for past 3 months 
associated with significant pruritus. Rash continuing to improve 
on diphenhydramine.

TRANSITIONAL ISSUES
===================
Discharge ALT: 45
Discharge WBC: 4.5

[ ] Continue to monitor clinically for signs of pneumonia 
resolution.
[ ] Follow up HIV, Legionella testing, and MRSA swab, if MRSA 
swab positive, may need doxycycline course if not improved after 
current antibiotic regimen, although currently low suspicion for 
MRSA pneumonia due to clinical stability. HIV checked again 
given concern for immunosuppression (last checked ___ IgA 
levels recently checked and were normal)

#CODE: Full (discussed) 
#CONTACT: ___ (husband): ___ ___ (home)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) BID 

3. Fluocinonide 0.05% Ointment 1 Appl TP BID 
4. Letrozole 2.5 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 4 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*9 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) 
BID  
6.  Fluocinonide 0.05% Ointment 1 Appl TP BID  
7.  Letrozole 2.5 mg PO DAILY  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
=======
Pneumonia

Secondary
=========
Hyperlipidemia
Breast Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had a pneumonia that got better but there was some concern 
it wasn't completely better because of persistent fevers. Your 
were started on IV antibiotic here.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given one dose of IV antibiotics. Because you were 
doing well clinically, we decided to switch you to a stronger 
oral antibiotic and discharge you home with follow up with your 
primary care doctor.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___